US08470839B2
Preparation of 4-(benzyl(methyl)amino)-5-fluoro-1-(thiophene-2-carbonyl)pyrimidin-2(1H)-one (25)
To a round-bottomed flask charged with 4-(benzyl(methyl)amino)-5-fluoropyrimidin-2(1H)-one (250 mg, 1.06 mmol) in CH2Cl2 (11 mL) and 2-thiophene carbonyl chloride (172 mg, 1.1 mmol, 1.1 eq) was added Et3N (237 mg, 2.35 mmol) at 0° C. under N2. The reaction mixture was warmed to room temperature after complete addition and stirred at for 12 h. The reaction mixture was diluted with CH2Cl2 (25 mL), washed with satd aq NaCl solution (10 mL), dried over Na2SO4 and evaporated to dryness in vacuo at room temperature. The crude product was purified by reverse phase chromatography to yield the product as a white solid (23 mg, 6%): mp 101.3-102.4° C.; 1H NMR (methanol-d4) δ 8.10 (d, J=6.3 Hz, 1H), 8.00 (d, J=3.8 Hz, 1H), 7.91 (d, J=4.9 Hz, 1H), 7.38-7.20 (m, 6H), 4.88 (s, 2H), 3.22 (d, J=3.2 Hz, 3H); ESIMS m/z 344 ([M+H]+).

reactant | 4-(benzyl(methyl)amino)-5-fluoropyrimidin-2(1H)-one | 1.06 mmol, 250 mg | C(C1=CC=CC=C1)N(C1=NC(NC=C1F)=O)C | C12H12FN3O
reactant | 2-thiophene carbonyl chloride | 1.1 mmol, 172 mg, 1.1 eq | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | Et3N | 2.35 mmol, 237 mg | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 11 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 4-(benzyl(methyl)amino)-5-fluoro-1-(thiophene-2-carbonyl)pyrimidin-2(1H)-one | 23 mg, 6% | C(C1=CC=CC=C1)N(C1=NC(N(C=C1F)C(=O)C=1SC=CC1)=O)C | C17H14FN3O2S
